US09382238B2
To a solution of 1-fluoro-3-nitro-5-(trifluoromethyl)benzene (500 mg, 2.391 mmol) and K2CO3 (496 mg, 3.59 mmol) in DMF (10 mL) was added 3-methyl-1H-pyrazole (196 mg, 2.391 mmol) in one portion. Then the mixture stirred under N2 was heated to 110° C. and reacted for 15 h. LCMS analysis showed the starting material disappeared. The solvent was removed in vacuo and the residue obtained was dissolved in DCM (40 mL) and washed with H2O (15 mL) and brine (15 mL). The organic layer was dried over Na2SO4, filtered and concentrated to give a residue which was purified by silica column chromatography (PE/EA=8/1 to 3/1) to afford pure product 3-methyl-1-(3-nitro-5-(trifluoromethyl)phenyl)-1H-pyrazole (300 mg, 1.007 mmol, 42.1% yield). 1H NMR (400 MHz, CD3OD): δ 8.84 (s, 1H), 8.47 (s, 1H), 8.41 (d, J=2.4 Hz, 1H), 8.35 (s, 1H), 6.42 (d, J=2.4 Hz, 1H), 2.36 (s, 3H). ES-LCMS: m/z 272.0 (M+H).

reactant | 1-fluoro-3-nitro-5-(trifluoromethyl)benzene | 2.391 mmol, 500 mg | FC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | K2CO3 | 3.59 mmol, 496 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-methyl-1H-pyrazole | 2.391 mmol, 196 mg | CC1=NNC=C1 | C4H6N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 3-methyl-1-(3-nitro-5-(trifluoromethyl)phenyl)-1H-pyrazole | 1.007 mmol, 300 mg, 42.1% yield | CC1=NN(C=C1)C1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C11H8F3N3O2
